US05314903
2-Amino-1-(4-chlorobenzyl)-5-trifluoromethylbenzimidazole.
To an ice cooled solution of 2-(4-chlorobenzylamino)-5-trifluoromethylaniline hydrochloride (6.74 g, 20 mmol) in DMF (100 ml) and triethylamine (2.8 ml) was added cyanogen bromide (2.75 g, 26 mmol). The ice bath was removed after two hours and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with water and neutralized with an aqueous solution of sodium carbonate (5%). The product was filtered off and purified with activated charcoal and crystallization from ethanol. Yield 2.93 g (45%).

reactant | 2-(4-chlorobenzylamino)-5-trifluoromethylaniline hydrochloride | 20 mmol, 6.74 g | Cl.ClC1=CC=C(CNC2=C(N)C=C(C=C2)C(F)(F)F)C=C1
reactant | cyanogen bromide | 26 mmol, 2.75 g | N#CBr | CBrN
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | 2-Amino-1-(4-chlorobenzyl)-5-trifluoromethylbenzimidazole | NC1=NC2=C(N1CC1=CC=C(C=C1)Cl)C=CC(=C2)C(F)(F)F | C15H11ClF3N3
